US07157488B2
(3-[1,3]Dioxolan-2-yl-phenyl)-pyridin-2-ylamine
Combine 2-aminopyridine (8.25 g, 95 mmol), 2-(3-bromo-phenyl)-[1,3]dioxolane (13.8 mL, 90 mmol), sodium t-butoxide (12.2 g, 126 mmol), BINAP (210 mg, 0.62 mmol), Pd2(dbu)3 (630 mg, 0.21 mmol) and toluene (100 mL) and heat to reflux for 48 hours. Cool the reaction to room temperature, dissolve in ether and filter and concentrate the resulting solution. Purification by flash chromatography (hexanes/EtOAc (8.5:1.5) and then hexanes/EtOAc (7:3)) provides the title compound as a yellow oil.

reactant | 2-aminopyridine | 95 mmol, 8.25 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2-(3-bromo-phenyl)-[1,3]dioxolane | 90 mmol, 13.8 mL | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | sodium t-butoxide | 126 mmol, 12.2 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.62 mmol, 210 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | ether | CCOCC | C4H10O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (3-[1,3]Dioxolan-2-yl-phenyl)-pyridin-2-ylamine | O1C(OCC1)C=1C=C(C=CC1)NC1=NC=CC=C1 | C14H14N2O2
